US07091227B2
A 40 ml pressure tube was charged with about 100 mg N-(6-bromo-1,3-benzothiazol-2-yl)-N′-ethylurea, and about 2 ml ethylene glycol dimethyl ether. The slurry was stirred via magnetic stirbar followed by evacuation then release to nitrogen atmosphere (3 times). Next about 6 mol percent Pd(PPh3)4 was added, followed by about 1.1 eq of 5-chlorothiophene-2-boronic acid. Following addition of about 3 equivalents sodium carbonate in about 0.5 ml water, the suspension was evacuated and released to nitrogen atmosphere 3 times. The pressure tube was then sealed tightly and heated to about 85–90° C. for about 12–20 hours. The reaction was cooled to room temperature then purified by preparative HPLC to yield 16% of N-[6-(5-chloro-2-thienyl)-1,3-benzothiazol-2-yl]-N′-ethylurea. 1H NMR 1.1 (t, 3H), 3.2 (m, 2H), 6.75 (m, 1H), 7.18 (d, 1H), 7.38 (m, 1H), 7.6 (m, 2H), 8.19 (d, 1H), 10.75 (br s, 1H); LC/MS 3.86 min, 338 (M+1), 336 (M−1).

reactant | N-(6-bromo-1,3-benzothiazol-2-yl)-N′-ethylurea | about 100 mg | BrC1=CC2=C(N=C(S2)NC(=O)NCC)C=C1 | C10H10BrN3OS
reactant | ethylene glycol dimethyl ether | about 2 ml | COCCOC | C4H10O2
reactant | 5-chlorothiophene-2-boronic acid | about 1.1 eq | ClC1=CC=C(S1)B(O)O | C4H4BClO2S
reactant | sodium carbonate | about 3 equivalents | C([O-])([O-])=O.[Na+].[Na+]
solvent | water | about 0.5 ml | O | H2O
catalyst | Pd(PPh3)4 | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | N-[6-(5-chloro-2-thienyl)-1,3-benzothiazol-2-yl]-N′-ethylurea | 16% | ClC1=CC=C(S1)C1=CC2=C(N=C(S2)NC(=O)NCC)C=C1 | C14H12ClN3OS2
